US04996227
Preparation of 3-[(5-carboxy-2-thienyl)-methylene]-2,4(3H,5H)-furandione
As before, 0.571 gm of tetronic acid (FW=100, 5.7 mmole) was reacted with 2.2 equiv. or 1.96 gm of 5-carboxy-2-thiophenecarboxaldehyde with 6 mL of THF and 10.5 mL of conc. HC1 and applied heat. A greenish precipitate formed immediately. Stirring was continued for 10 minutes. Workup and recrystallization from methanol gave 0.91 gm (67%) of the product having a M. p. of approximately 255°-268° C. and a molecular formula of C10H6O5S: calculated %C 50.42; %H 2.54; found %c 50.22; %H 2.75.

reactant | tetronic acid | 5.7 mmole, 0.571 gm | C1C(=O)COC1=O | C4H4O3
reactant | 5-carboxy-2-thiophenecarboxaldehyde | 1.96 gm | C(=O)(O)C1=CC=C(S1)C=O | C6H4O3S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-[(5-carboxy-2-thienyl)-methylene]-2,4(3H,5H)-furandione | 0.91 gm, 67% | C(=O)(O)C1=CC=C(S1)C=C1C(OCC1=O)=O | C10H6O5S
